US05268389
2,3,4,5-Tetrabromo-6-[[[4-chloro-3-(1-methylethoxycarbonyl)phenyl]amino]carbonyl]benzoic acid (Compound 21)
Tetrabromophthalic anhydride (7.03 g, 0.015 mole), 1-methylethyl 5-amino-2-chlorobenzoate (3.24 g, 0.015 mole) and toluene (about 150 ml) were heated almost to reflux over 30 minutes. The reaction mixture was cooled and filtered to give the title compound, m.p. 169°-171° C. (decomp.) (8.92 g, 87% yield).

reactant | Tetrabromophthalic anhydride | 0.015 mole, 7.03 g | BrC=1C(=C(C(=C2C1C(=O)OC2=O)Br)Br)Br | C8Br4O3
reactant | 1-methylethyl 5-amino-2-chlorobenzoate | 0.015 mole, 3.24 g | NC=1C=CC(=C(C(=O)OC(C)C)C1)Cl | C10H12ClNO2
solvent | toluene | about 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3,4,5-Tetrabromo-6-[[[4-chloro-3-(1-methylethoxycarbonyl)phenyl]amino]carbonyl]benzoic acid | 87% yield | BrC1=C(C(=O)O)C(=C(C(=C1Br)Br)Br)C(=O)NC1=CC(=C(C=C1)Cl)C(=O)OC(C)C | C18H12Br4ClNO5
